US07667064B2
4-Bromo-2,6-dimethylaniline
21.3 ml (66.1 g, 0.413 mol) of bromine were added dropwise, while vigorously stirring, over ca. 20 minutes to a solution of 50.0 g (0.413 mol) of 2,6-dimethylaniline in 1200 cm3 of glacial acetic acid. This mixture was stirred for 2 hours at 40° C. The precipitate formed was filtered off, washed with 50 ml of acetic acid, and dried in air. Then, this white solid was added to a solution of 100 g of sodium hydroxide in 600 ml of water. This mixture was stirred for 30 minutes. The crude product was extracted with 3×100 ml of dichloromethane. The combined organic fractions were dried over Na2SO4 and evaporated to dryness. Fractional distillation gave a yellow liquid, bp 82-85° C./1 mm Hg. Yield 61.7 g (75%).

reactant | bromine | 0.413 mol, 21.3 ml, 66.1 g | BrBr | Br2
reactant | 2,6-dimethylaniline | 0.413 mol, 50.0 g | CC1=C(N)C(=CC=C1)C | C8H11N
solvent | acetic acid | 1200 cm3 | C(C)(=O)O | C2H4O2
product | 4-Bromo-2,6-dimethylaniline | BrC1=CC(=C(N)C(=C1)C)C | C8H10BrN
